US09102591B2
To a solution of ethyl 3-phenyl-3-(pyridazin-4-yl)propanoate (1.0 g, 3.9 mmol) in MeOH (20 mL) was added 2N NaOH (6 mL, 11.7 mmol), the resulting mixture was stirred at room temperature overnight. MeOH was removed under reduced pressure and pH adjusted to 4-5 by aq. HCl (2N), extracted with AcOEt (6×100 ml), the combined organic layer was washed with brine, dried over Na2SO4 and concentrated to get the 3-phenyl-3-(pyridazin-4-yl)propanoic acid (750 mg, yield: 84%). 1H NMR (CDCl3 400 MHz): δ9.27 (d, J=1.2 Hz, 1H), 9.09 (dd, J=4.0, 1.2 Hz, 1H), 7.67 (dd, J=5.6, 2.4 Hz, 1H), 7.41-7.36 (m, 2H), 7.34-7.27 (m, 2H), 7.24-7.18 (m, 1H), 4.48 (t, J=8.0 Hz, 1H), 3.27-3.15 (m, 1H), 3.10-3.00 (m, 1H).

reactant | ethyl 3-phenyl-3-(pyridazin-4-yl)propanoate | 3.9 mmol, 1.0 g | C1(=CC=CC=C1)C(CC(=O)OCC)C1=CN=NC=C1 | C15H16N2O2
reactant | NaOH | 11.7 mmol, 2N, 6 mL | [OH-].[Na+]
solvent | MeOH | 20 mL | CO | CH4O
product | 3-phenyl-3-(pyridazin-4-yl)propanoic acid | 750 mg, yield: 84% | C1(=CC=CC=C1)C(CC(=O)O)C1=CN=NC=C1 | C13H12N2O2
